US08022223B2
Step B: Preparation of 3-(2-(5-bromo-3-(phenylthio)pyridin-2-ylamino)thiazol-4-yl)propanoic acid:
To a mixture of methyl 3-(2-(5-bromo-3-(phenylthio)pyridin-2-ylamino)thiazol-4-yl)propanoate (1.40 g, 3.11 mmol) in 50 mL THF was added 25 mL water followed by sodium hydroxide (0.249 g, 6.22 mmol) and the mixture was stirred overnight. The mixture was concentrated to dryness, water added and acidified with NH4Cl. The mixture was then extracted with THF. The organics were dried over Na2SO4 and concentrated to give the title compound (1.38 g, 102% yield) that was used as the crude material.

reactant | methyl 3-(2-(5-bromo-3-(phenylthio)pyridin-2-ylamino)thiazol-4-yl)propanoate | 3.11 mmol, 1.40 g | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)OC)SC1=CC=CC=C1 | C18H16BrN3O2S2
reactant | water | 25 mL | O | H2O
reactant | sodium hydroxide | 6.22 mmol, 0.249 g | [OH-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(2-(5-bromo-3-(phenylthio)pyridin-2-ylamino)thiazol-4-yl)propanoic acid | 1.38 g, 102% yield | BrC=1C=C(C(=NC1)NC=1SC=C(N1)CCC(=O)O)SC1=CC=CC=C1 | C17H14BrN3O2S2
